US07902181B2
(S)-tert-Butyl 2-((1R,2R)-2-(4-bromophenyl)-1-carbamoyl-cyclopropylcarbamoyl)piperidine-1-carboxylate
(1R,2R)-2-(4-Bromophenyl)-1-((S)-1-(tert-butoxycarbonyl)piperidine-2-carboxamido)cyclopropanecarboxylic acid (3 g) was dissolved in DMF (17 mL) and to the solution was added N-ethylmorpholine (1.219 mL) followed by TBTU (3.09 g). The reaction mixture was stirred at RT for 20 min then it was cooled to 0° C. Aqueous ammonia (1.461 mL) was added and the mixture was allowed to reach RT over 1 h. The reaction appeared to have proceeded ˜70%, so it was left to stir for a further 2 h. LCMS showed little change so further TBTU (400 mg) and ammonia (0.3 mL) were added, and the mixture stirred for a further 2 h. The reaction mixture was partitioned between ethyl acetate and diluted brine, and reextracted into ethyl acetate twice more. The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound (2.75 g) as a pale gum.

reactant | (1R,2R)-2-(4-Bromophenyl)-1-((S)-1-(tert-butoxycarbonyl)piperidine-2-carboxamido)cyclopropanecarboxylic acid | 3 g | BrC1=CC=C(C=C1)[C@@H]1[C@](C1)(C(=O)O)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C21H27BrN2O5
reactant | N-ethylmorpholine | 1.219 mL | C(C)N1CCOCC1 | C6H13NO
reactant | TBTU | 3.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ammonia | 1.461 mL | N | H3N
reactant | TBTU | 400 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ammonia | 0.3 mL | N | H3N
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 2-((1R,2R)-2-(4-bromophenyl)-1-carbamoyl-cyclopropylcarbamoyl)piperidine-1-carboxylate | 2.75 g | BrC1=CC=C(C=C1)[C@@H]1[C@](C1)(C(N)=O)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C21H28BrN3O4
